US04410539
A mixture of 5-methylbenzo[b]thiophene-2-carboxylic acid methyl ester (3.09 g.), N-bromosuccinimide (2.67 g.) and azobisisobutyronitrile (0.20 g.) in carbon tetrachloride (150 ml.) was heated under reflux for 5 hours. The mixture was then filtered and the filtrate was evaporated to give a solid which was crystallized from methanol to give 5-bromomethylbenzo[b]thiophene-2-carboxylic acid methyl ester (4.16 g.), m.p. 108°-110°.

reactant | 5-methylbenzo[b]thiophene-2-carboxylic acid methyl ester | 3.09 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)C | C11H10O2S
reactant | N-bromosuccinimide | 2.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | azobisisobutyronitrile | 0.20 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 5-bromomethylbenzo[b]thiophene-2-carboxylic acid methyl ester | 4.16 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)CBr | C11H9BrO2S
